US08227492B2
Step 1: Preparation of 5-Chloro-N-(5-chloro-pyridin-2-yl)-2-nitro-benzamide
To a stirred solution of 5-chloro-2-nitro-benzoic acid (100 g, 0.4962 mol) in acetonitrile (500 mL) was added pyridine (121 mL, 1.48 mol) at 25-30° C. The reaction mixture was then cooled to 0-10° C. under nitrogen atmosphere. To this was added POCl3 (54.6 mL, 0.5955 mol) drop wise by maintaining exothermicity. After stirring at 25-30° C. for 1 hr, reaction mixture was poured in cold water and filtered. Solid obtained was stirred in 500 mL of saturated solution of sodium bicarbonate for 10 min. Filtration and drying afforded 164 g of titled compound in 86% yield.

reactant | 5-chloro-2-nitro-benzoic acid | 0.4962 mol, 100 g | ClC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 1.48 mol, 121 mL | N1=CC=CC=C1 | C5H5N
reactant | POCl3 | 0.5955 mol, 54.6 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetonitrile | 500 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 5-Chloro-N-(5-chloro-pyridin-2-yl)-2-nitro-benzamide | 164 g, 86% yield | ClC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)[N+](=O)[O-] | C12H7Cl2N3O3
